US04115394
(c) 4-Dimethylamino-1,3-dimethyl-6-phenyl-1H-pyrazolo[3,4-b]pyridine
15.5 gms. of 4-chloro-1,3-dimethyl-6-phenyl-1H-pyrazolo[3,4-b]pyridine (0.06 mol.) are added to 132 ml. of a solution of dimethylamine (40%). The reaction mixture is heated at 190°-200° C. for 16 hours in an autoclave and after cooling to room temperature is evaporated in vacuo. The residue is treated with water and extracted with ether. After evaporation of the extract, the 4-dimethylamino-1,3-dimethyl-6-phenyl-1H-pyrazolo[3,4-b]pyridine (15.6 gms. = 98%) is recrystallized from ligroin, m.p. 90°-91° C.

reactant | 4-chloro-1,3-dimethyl-6-phenyl-1H-pyrazolo[3,4-b]pyridine | 0.06 mol | ClC1=C2C(=NC(=C1)C1=CC=CC=C1)N(N=C2C)C | C14H12ClN3
reactant | dimethylamine | CNC | C2H7N
product | 4-Dimethylamino-1,3-dimethyl-6-phenyl-1H-pyrazolo[3,4-b]pyridine | CN(C1=C2C(=NC(=C1)C1=CC=CC=C1)N(N=C2C)C)C | C16H18N4
